US07452911B2
[5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-2-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-methyl-amine
Under a nitrogen atmosphere 178 μL (1.35 mmol) N,N-dimethylformamide dimethylacetal are added to a solution of 100 mg (0.24 mmol) 5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-2-(2-pyrrolidin-1-yl-ethoxy)-phenylamine in 2 mL DMF, the reaction mixture is stirred for 5 h at 60° C. and cooled to RT overnight. Then 32 mg (0.85 mmol) NaBH4 are added and the mixture is again heated to 60° C. for 1 h. To complete the reaction a further 32 mg NaBH4 are added and the mixture is heated to 60° C. for a further 4 h. After cooling it is combined with saturated NaHCO3 solution, exhaustively extracted with EtOAc and the organic phase is dried over MgSO4. After the desiccant and solvent have been eliminated the residue is purified by HPLC.

reactant | N,N-dimethylformamide dimethylacetal | 1.35 mmol, 178 μL | COC(N(C)C)OC | C5H13NO2
reactant | 5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-2-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 0.24 mmol, 100 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=C(C1)N)OCCN1CCCC1 | C25H24ClN3O
reactant | NaBH4 | 0.85 mmol, 32 mg | [BH4-].[Na+]
reactant | NaBH4 | 32 mg | [BH4-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | [5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-2-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-methyl-amine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=C(C1)NC)OCCN1CCCC1 | C26H26ClN3O
